US04366160
A solution of 20.14 g of 1-(benzyloxy)-2-(2,6-dichloro-3-methoxyphenyl)imino-imidazolidine in 100 ml of ethanol is treated with 6.5 ml of concentrated hydrochloric acid and 1.0 g of palladium/carbon and hydrogenated at room temperature. After 2 hours, the solution is filtered and the filtrate is evaporated in vacuo. The residual material is taken up in acetone and heated to boiling under reflux. There is obtained 2-[(2,6-dichloro-3-methoxyphenyl)imino]-1-hydroxyimidazolidine hydrochloride of melting point 215°-217°.

reactant | 1-(benzyloxy)-2-(2,6-dichloro-3-methoxyphenyl)imino-imidazolidine | 20.14 g | C(C1=CC=CC=C1)ON1C(NCC1)=NC1=C(C(=CC=C1Cl)OC)Cl | C17H17Cl2N3O2
reactant | hydrochloric acid | 6.5 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 1.0 g | [Pd] | Pd
product | 2-[(2,6-dichloro-3-methoxyphenyl)imino]-1-hydroxyimidazolidine hydrochloride | Cl.ClC1=C(C(=CC=C1OC)Cl)N=C1N(CCN1)O | InChI=1S/C10H11Cl2N3O2.ClH/c1-17-7-3-2-6(11)9(8(7)12)14-10-13-4-5-15(10)16;/h2-3,16H,4-5H2,1H3,(H,13,14);1H
